US04649146
To a solution of 1-(3-pyridyl)-2-propanone (3.4 g) in methylene chloride (30 ml) was dropwise added a solution of sulfuryl chloride (4.0 g) in methylene chloride (5 ml) at 20° C. to 28° C. under stirring and the mixture was stirred at ambient temperature for 30 minutes. The resulting mixture was added to a solution of thiourea (4.2 g) in a mixture of tetrahydrofuran (50 ml) and water (20 ml) and the mixture was adjusted to pH 7.0 to 7.5 with 20% aqueous potassium carbonate. After being stirred at ambient temperature for 2 hours, the mixture was evaporated in vacuo. The residue was dissolved in a mixture water and ethyl acetate, and the mixture was acidified to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 7.5 with 20% aqueous potassium carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo. The residue was washed with a mixture of diethyl ether and ethyl acetate, and recrystallized from tetrahydrofuran to give 2-amino-4-methyl-5-(3-pyridyl)thiazole (1.9 g). mp 190°-191° C.

reactant | 1-(3-pyridyl)-2-propanone | 3.4 g | N1=CC(=CC=C1)CC(C)=O | C8H9NO
reactant | sulfuryl chloride | 4.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | thiourea | 4.2 g | NC(=S)N | CH4N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 2-amino-4-methyl-5-(3-pyridyl)thiazole | 1.9 g | NC=1SC(=C(N1)C)C=1C=NC=CC1 | C9H9N3S
